US04595521
A solution of 35.9 g of trans-1-(2,2-dibromovinyl)-4-pentylcyclohexane in 300 ml of absolute tetrahydrofuran at -70° C. was placed under argon gasification and treated within 20 minutes with 222 ml of a 1.2M solution of butyl lithium in hexane. The mixture was subsequently stirred at -70° C. for a further 2 hours, then poured into 1.2 l of water and extracted three times with 400 ml of hexane each time. The organic phases were washed twice with 400 ml of water each time, dried over magnesium sulphate and concentrated. Crystallization of the residue (19.4 g) from 250 ml of methanol at -78° C. gave 10.0 g of trans-1-ethynyl-4-pentylcyclohexane which was a colourless liquid at room temperature. Crystallization of the mother liquor, concentrated to about 100 ml, at -78° C. gave a further 3.9 g of trans-1-ethynyl-4-pentylcyclohexane. The combined batches of product were crystallized again from 300 ml of methanol at -78° C. and subsequently distilled (110° C./0.3 Torr), there being obtained 10.43 g (55%) of trans-1-ethynyl-4-pentylcyclohexane (purity 99.4%) as a colourless liquid; Rf-value (hexane) 0.41.

reactant | trans-1-(2,2-dibromovinyl)-4-pentylcyclohexane | 35.9 g | BrC(=C[C@@H]1CC[C@H](CC1)CCCCC)Br | C13H22Br2
reactant | butyl lithium | C(CCC)[Li]
reactant | water | 1.2 l | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | trans-1-ethynyl-4-pentylcyclohexane | 10.0 g | C(#C)[C@@H]1CC[C@H](CC1)CCCCC | C13H22
